US04977273
3-(2'-Nitroimidazolyl)-2,2-difluoropropionic acid hydroxyethylamide (6.0 g, 22.7 mmol) was dissolved in a solvent mixture of methyl chloroformate (30 ml) and chloroform (30 ml) and cooled by ice. To the solution, a solution of pyridine (6.0 ml) in chloroform (30 ml) was dropwise added over 2 hours. The completion of the reaction was confirmed by thin-layer chromatography. Then, the reaction solution was washed with dilute hydrochloric acid and water, dried over magnesium sulfate, concentrated and subjected to silica gel column chromatography to obtain methyl 3-(2'-nitroimidazolyl)-2,2-difluoropropionamidoethoxyformate (6.89 g). m.p. 50.5°-52.5° C.

reactant | 3-(2'-Nitroimidazolyl)-2,2-difluoropropionic acid hydroxyethylamide | 22.7 mmol, 6.0 g | OCCNC(C(CC=1N=C(NC1)[N+](=O)[O-])(F)F)=O | C8H10F2N4O4
reactant | pyridine | 6.0 ml | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 30 ml | ClC(=O)OC | C2H3ClO2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 3-(2'-nitroimidazolyl)-2,2-difluoropropionamidoethoxyformate | 6.89 g | [N+](=O)([O-])C=1NC=C(N1)CC(C(=O)NCCOC(=O)OC)(F)F | C10H12F2N4O6
